US07432270B2
(S)2-[(5-Bromo-pyrimidin-2-ylamino)-methyl]-pyrrolidin-1-carboxylic acid tert butyl carbonate
(S)-2-Aminomethyl-pyrrolidine-1-carboxylic acid tert butyl ester (2 g), 5-bromo-2-chloropyrimidine (1.93 g) were combined in xylene (40 ml) containing potassium carbonate (2.76 g) and diisopropylethylamine (5.23 ml) and warmed to reflux for 20 h. The mixture was cooled to room temperature, filtered and solvent removed at reduced pressure. The residue was column chromatographed (silica gel, pentane-25% ethyl acetate/pentane). The appropriate fractions were collected, solvent removed at reduced pressure to give the title compound (1.78 g) as a colourless gum

reactant | (S)-2-Aminomethyl-pyrrolidine-1-carboxylic acid tert butyl ester | 2 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN | C10H20N2O2
reactant | 5-bromo-2-chloropyrimidine | 1.93 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropylethylamine | 5.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (S)2-[(5-Bromo-pyrimidin-2-ylamino)-methyl]-pyrrolidin-1-carboxylic acid tert butyl carbonate | 1.78 g | C(OC(C)(C)C)(O)=O.BrC=1C=NC(=NC1)NC[C@H]1N(CCC1)C(=O)O | InChI=1S/C10H13BrN4O2.C5H10O3/c11-7-4-12-9(13-5-7)14-6-8-2-1-3-15(8)10(16)17;1-5(2,3)8-4(6)7/h4-5,8H,1-3,6H2,(H,16,17)(H,12,13,14);1-3H3,(H,6,7)/t8-;/m0./s1
